US06465485B1
8-Cyano-1,2,3,4-tetrahydroisoquinoline
A mixture of 2-t-butyloxycarbonyl-8-cyano-1,2,3,4-tetrahydroisoquinoline (1.4 g, 5.4 mmol) and trifluoroacetic acid (2 ml) in dichloromethane (20m1) was stirred at 40° C. for 16 h. Mixture was evaporated in vacuo and the resulting residue partitioned between dichloromethane and saturated potassium carbonate solution. The aqueous layer was extracted with more dichloromethane (2×100 ml). The combined organic extracts were dried (Na2SO4) and evaporated in vacuo to afford the desired product as an amber oil (0.9 g, 100%).

reactant | 2-t-butyloxycarbonyl-8-cyano-1,2,3,4-tetrahydroisoquinoline | 5.4 mmol, 1.4 g | C(C)(C)(C)OC(=O)N1CC2=C(C=CC=C2CC1)C#N | C15H18N2O2
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-Cyano-1,2,3,4-tetrahydroisoquinoline | 0.9 g, 100% | C(#N)C=1C=CC=C2CCNCC12 | C10H10N2
